Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
fluoxetine
 
Attending: ___.
 
Chief Complaint:
L leg pain
 
Major Surgical or Invasive Procedure:
L4-5, L5-S1 microdisc

 
History of Present Illness:
Ms. ___ is a pleasant ___ woman who presents to clinic 
with the above diagnoses.She states that she initially had low 
back pain, which began ___ years ago.This subsequently resolved 
with physical therapy and an epidural steroid injection.She was 
doing well up until a year ago when her pain recurred in 
___ subsequently has undergone three epidural steroid 
injections on ___ and ___ first 
injection was done in the L4-5 epidural space and the second and 
third injections were performed in the left L5 transforaminal 
space.She states that the first two injections helped her.This 
is the last one that was mildly helpful.She also reports over 
six months of left buttock,posterior and lateral thigh, lateral 
calf and top of her foot numbness.In addition, she has noted 
weakness of her left foot,namely she hears slapping of her left 
foot when she is walking.Of note, the patient is a ___ 
___ in a 17,000 square feet home, where she participates in 
many of the caretaking activities including grocery shopping and 
caring for the family.The patient goes to the gym four times a 
week and states that this does not help or exacerbate her 
symptoms.She does refrain from axial loading activities at the 
gym.The patient is currently taking the gabapentin t.i.d. as 
well as tizanidine for her symptoms with minimal relief.
IMAGING:  An MRI of her lumbar spine from ___ was 
visualized and interpreted with Dr. ___.  The patient has 
evidence of L4-L5 and L5-S1 lateral recess stenosis.

 
Social History:
The patient is a ___.  She denies smoking.  She 
reports social alcohol.

 
Physical Exam:
Pre-op Physical Exam dated ___
GENERAL:  The patient is calm and comfortable appearing.  She is
in no acute distress.
MUSCULOSKELETAL:  On examination of her bilateral lower
extremities, she fires at L2-S1.  However, she has notable
weakness of her left L4 and L5 musculature.  She has weak
tibialis anterior and ___ function.  She has a notable footdrop
with gait.  The patient also reports decreased sensation in her
L4, L5 nerve distribution on the left side.

Physical Exam- ___
General:Well appearing adult, comfortable, standing in NAD
Heart:RRR
Lungs:CTAB
Abd:soft,nt,nd,+bs's
Extremities:2+rad/2+dp's,brisk capillary refill
___ Quad/Ham, ___ /___ to LLE, ___ Quad/Ham 
___ to RLE
+SILT to BLE with decreased sensation in the L4-5 nerve 
distribution to LLE. 

 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
taken to the Operating Room for the above procedure. Refer to 
the dictated operative note for further details. The surgery was 
without complication and the patient was transferred to the PACU 
in a stable condition. TEDs/pnemoboots were used for 
postoperative DVT prophylaxis. Intravenous antibiotics were 
continued for 24hrs postop per standard protocol. Initial postop 
pain was controlled with a PCA. Diet was advanced as tolerated. 
The patient was transitioned to oral pain medication when 
tolerating PO diet. The patient walked with nursing well for 
ambulation. The patient complained of some LLE calf pain and was 
ruled out for a DVT w/a Duplex ultrasound:negative.  Hospital 
course was otherwise unremarkable. On the day of discharge the 
patient was afebrile with stable vital signs, comfortable on 
oral pain control and tolerating a regular diet.

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H:PRN pain 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*42 Tablet Refills:*0
2. Diazepam 5 mg PO Q6H:PRN pain, spasm 
RX *diazepam 5 mg 1 tablet by mouth every six (6) hours Disp 
#*60 Tablet Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*0
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*85 Tablet Refills:*0
5. Gabapentin 300 mg PO BID nerve pain 
RX *gabapentin 600 mg ___ tablet tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Herniated lumbar disc

 
Discharge Condition:
Good

 
Discharge Instructions:
You have undergone the following operation: Minimally Invasive 
Microdiscectomy

Immediately after the operation:

•                Activity: You should not lift anything greater 
than 10 lbs for 2 weeks. You will be more comfortable if you do 
not sit or stand more than ~45 minutes without moving around.

•                Rehabilitation/ Physical Therapy:

___                ___ times a day you should go for a walk 
for ___ minutes as part of your recovery.  You can walk as 
much as you can tolerate.

___                Limit any kind of lifting.

•                Diet: Eat a normal healthy diet. You may have 
some constipation after surgery.

•                Brace: You do not need a brace.

•                Wound Care: Remove the dressing in 2 days.  If 
the incision is draining cover it with a new sterile dressing.  
If it is dry then you can leave the incision open to the air.  
Once the incision is completely dry (usually ___ days after the 
operation) you may take a shower. Do not soak the incision in a 
bath or pool.  If the incision starts draining at anytime after 
surgery, do not get the incision wet. Cover it with a sterile 
dressing.  Call the office.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.  Please allow 72 hours for refill of 
narcotic prescriptions, so please plan ahead.  You can either 
have them mailed to your home or pick them up at the clinic 
located on ___.  We are not allowed to call in narcotic 
prescriptions (oxycontin, oxycodone, percocet) to the pharmacy.  
In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.

•                Follow up:            

___                Please Call the office and make an 
appointment for 2 weeks after the day of your operation if this 
has not been done already.

___                At the 2-week visit we will check your 
incision, take baseline X-rays and answer any questions. We may 
at that time start physical therapy.

___                We will then see you at 6 weeks from the 
day of the operation and at that time release you to full 
activity.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound

 
Followup Instructions:
___